US08030500B2
1-(3-Bromo-4-methoxyphenyl)-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine
A solution of 4-bromo-2-trifluoromethylpyridine (1.76 g, 7.80 mmol) in THF (2 mL) was added dropwise at −100° C. to t-butyllithium (9.17 mL, 15.59 mmol) in THF (15 mL) followed by the addition of (E)-N-((3-bromo-4-methoxyphenyl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide (3.1 g, 7.09 mmol) in THF (10 mL). The reaction mixture was left on a thawing cooling bath for 1 hour and then allowed to reach room temperature and stirred for 2.5 hours. Hydrochloric acid in methanol (1.25 M, 28.4 mL, 35.4 mmol) was added and the reaction was stirred for 1 hour. Silica powder was added and the mixture was concentrated under reduced pressure. The residue was purified by flash column chromatography (0-10% 0.1M NH3 in methanol in DCM) to afford the title compound (3.04 g, 89%).

reactant | 4-bromo-2-trifluoromethylpyridine | 7.80 mmol, 1.76 g | BrC1=CC(=NC=C1)C(F)(F)F | C6H3BrF3N
reactant | t-butyllithium | 15.59 mmol, 9.17 mL | C(C)(C)(C)[Li]
reactant | (E)-N-((3-bromo-4-methoxyphenyl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide | 7.09 mmol, 3.1 g | BrC=1C=C(C=CC1OC)/C(=N\S(=O)C(C)(C)C)/C1=C(C(=CC=C1)F)C#N | C19H18BrFN2O2S
reactant | Hydrochloric acid | Cl | ClH
reactant | methanol | 35.4 mmol, 1.25 M, 28.4 mL | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(3-Bromo-4-methoxyphenyl)-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine | 3.04 g, 89% | BrC=1C=C(C=CC1OC)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=NC=C1)C(F)(F)F | C21H14BrF4N3O
